US05371268
Intermediate 1c 1-n-Propylcyclopropanecarboxylic acid
A stirred mixture of 21.0 g (0.11 mol) of tertbutyl 1-n-propylcyclopropanecarboxylate and 13.0 g (0.11 mol) of trifluoroacetic acid was refluxed for 3 hours and then added to 20 ml of dilute sodium hydroxide solution. After extraction of the byproducts with diethyl ether, the aqueous phase was acidified with dilute hydrochloric acid and again extracted with diethyl ether. This ether phase was then worked up in a conventional manner to obtain the product. Yield: 95%; colorless oil.

reactant | tertbutyl 1-n-propylcyclopropanecarboxylate | 0.11 mol, 21.0 g | C(CC)C1(CC1)C(=O)OC(C)(C)C | C11H20O2
reactant | trifluoroacetic acid | 0.11 mol, 13.0 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 1-n-Propylcyclopropanecarboxylic acid | Yield: 95% | C(CC)C1(CC1)C(=O)O | C7H12O2
